US04018922
87.5 g of ethyl bromide dissolved in 100 ml of ether were added dropwise over 30 minutes to 19.2 g of magnesium in 100 ml of ether refluxing in a flask and the resulting solution was cooled. A solution of 46.6 g of 8-benzyl-1,4-dioxa-8-aza-spiro [4,5] decane in 250 ml of benzene was added thereto and the ether was evaporated off. 250 ml. of benzene were added and the mixture was refluxed for 20 hours. The mixture was cooled and hydrolyzed with a saturated aqueous ammonium chloride solution. The benzene phase was decanted and the aqueous phase was extracted with methylene chloride. The methylene chloride phase was washed with water until neutral, dried over sodium sulfate and the solvent was distilled off under reduced pressure. The residue was distilled to obtain 37.6 g of 2-(1-benzyl-4-ethyl-4-piperidyloxy)-ethanol as a colorless oil boiling at 152°-156° C at 0.5 mm Hg which was used as is for the next step.

reactant | ethyl bromide | 87.5 g | C(C)Br | C2H5Br
reactant | magnesium | [Mg] | Mg
reactant | 8-benzyl-1,4-dioxa-8-aza-spiro [4,5] decane | 46.6 g | C(C1=CC=CC=C1)N1CCC2(OCCO2)CC1 | C14H19NO2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-(1-benzyl-4-ethyl-4-piperidyloxy)-ethanol | 37.6 g | C(C1=CC=CC=C1)N1CCC(CC1)(OCCO)CC | C16H25NO2
